US07662813B2
4-{5-Hydroxy-4-[4-methoxy-3-(methylpropylamino)phenyl]-4H-[1,2,4]triazol-3-yl}-6-isopropyl-benzene-1,3-diol
2,4-Bis-benzyloxy-5-isopropyl-N-[4-methoxy-3-(methylpropylamino)phenyl]benzamide (700 mg, 1.27 mmol) and Lawesson's reagent (0.31 g, 0.76 mmol) were dissolved in toluene (20 mL) and heated to 110° C. for 3 hrs then evaporated to dryness under reduced pressure to produce a yellow oil. This crude product was dissolved in dioxane (10 mL), anhydrous hydrazine (0.6 mL) was added and the reaction was heated to 80° C. for 30 min. After cooling, ethyl acetate (50 mL) and water (50 mL) were added. The ethyl acetate layer was washed with water (3×50 mL), dried over magnesium sulfate, filtered and evaporated to dryness to produce the crude product as a brown solid. This solid was dissolved in ethyl acetate (50 mL), CDI (0.66 g, 4.08 mmol) was added then the reaction was heated to reflux for 3 hrs. Removal of the solvent under reduced pressure followed by purification by silicagel chromatography (elution with 50% ethyl acetate/hexane) provided the desired compound as a white solid (250 mg, 33% over 3 steps).

reactant | 2,4-Bis-benzyloxy-5-isopropyl-N-[4-methoxy-3-(methylpropylamino)phenyl]benzamide | 1.27 mmol, 700 mg | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=CC(=C(C=C2)OC)N(CCC)C)C=C(C(=C1)OCC1=CC=CC=C1)C(C)C | C35H40N2O4
reactant | Lawesson's reagent | 0.76 mmol, 0.31 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | hydrazine | 0.6 mL | NN | H4N2
reactant | CDI | 4.08 mmol, 0.66 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 4-{5-Hydroxy-4-[4-methoxy-3-(methylpropylamino)phenyl]-4H-[1,2,4]triazol-3-yl}-6-isopropyl-benzene-1,3-diol | 250 mg, 33% | OC=1N(C(=NN1)C1=C(C=C(C(=C1)C(C)C)O)O)C1=CC(=C(C=C1)OC)N(CCC)C | C22H28N4O4
